US07459554B2
1-(3-Benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine:
N-[(3-Benzyloxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-formamide: Prepared according to the procedures for Cyclobutanecarboxylic Acid [(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]Amide, White solid, 1H NMR (CDCl3, 400 MHz) δ 5.03 (s, 2H), 6.62 (d, 1H, J=8.0 Hz), 6.88-6.97 (m, 3H), 7.22-7.24 (m, 1H), 7.32-7.41 (m, 5H), 8.29 (bs, 1H), 8.35 (d, 1H, J=2.4 Hz), 8.51 (d, 1H, J=2.0 Hz).

reactant | N-[(3-Benzyloxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-formamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(NC=O)C1=NC=CN=C1Cl | C19H16ClN3O2
reactant | Cyclobutanecarboxylic Acid [(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]Amide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C1=NC=CN=C1Cl)NC(=O)C1CCC1 | C23H22ClN3O2
product | 1-(3-Benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=CN2C1C(=NC=C2)N | C19H16N4O
